US08314094B2
2) Synthesis of 4-fluoro-N-{[2-oxo-6-(1H-1,2,4-triazol-1-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide
A solution of N-{[6-iodo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide (50 mg, 0.081 mmol), 1,2,4-triazole (16.9 mg, 0.244 mmol), potassium phosphate (25.9 mg, 0.122 mmol), N,N′-dimethylethylenediamine (6.9 μL, 0.065 mmol) and copper iodide (I) (3.1 mg, 0.016 mmol) in DMF (0.4 mL) was stirred for 1 hour under heating at 110° C. The temperature of the solution was brought to room temperature, and the solution was diluted with ethyl acetate, which was washed sequentially with a saturated aqueous ammonium chloride solution and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was subjected to the same condition as in Example 154 to effect deprotection of the 4-methoxybenzyl group, whereby the objective compound (8.0 mg, 23%) was obtained as a pale white solid.

reactant | N-{[6-iodo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | 0.081 mmol, 50 mg | IC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C25H19F4IN2O4
reactant | 1,2,4-triazole | 0.244 mmol, 16.9 mg | N1N=CN=C1 | C2H3N3
reactant | potassium phosphate | 0.122 mmol, 25.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.065 mmol, 6.9 μL | CNCCNC | C4H12N2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.016 mmol, 3.1 mg | [Cu](I)I
product | 4-fluoro-N-{[2-oxo-6-(1H-1,2,4-triazol-1-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide | FC1=CC=C(C(=O)NCC2(OC(NC3=C2C=C(C=C3)N3N=CN=C3)=O)C(F)(F)F)C=C1 | C19H13F4N5O3
